US07829563B2
2-[3-(3,4-Dimethoxy-phenyl)-1-(5-fluoro-2-hydroxy-phenyl)-propylamino]-N,N-dimethyl-2-phenyl-acetamide
A mixture of 36.2 mg (0.8 mmol) [3-(3,4-dimethoxy-phenyl)-1-(5-fluoro-2-hydroxy-phenyl)-propylamino]-phenyl-acetic acid methyl ester and 0.32 mmol NaOH aq. in ethanol was evaporated to dryness and dissolved in DMF. TBTU (0.24 mmol) and dimethylamine (0.24 mmol) was added and the mixture was stirred for 1 h at room temperature. The mixtures was evaporated and purified by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and formic acid. The product containing fractions were evaporated to yield 9.8 mg (26%) of the title compound. MS (m/e): 467.2 (MH+).

reactant | [3-(3,4-dimethoxy-phenyl)-1-(5-fluoro-2-hydroxy-phenyl)-propylamino]-phenyl-acetic acid methyl ester | 0.8 mmol, 36.2 mg | COC(C(C1=CC=CC=C1)NC(CCC1=CC(=C(C=C1)OC)OC)C1=C(C=CC(=C1)F)O)=O | C26H28FNO5
reactant | NaOH | 0.32 mmol | [OH-].[Na+]
reactant | TBTU | 0.24 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | dimethylamine | 0.24 mmol | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 2-[3-(3,4-Dimethoxy-phenyl)-1-(5-fluoro-2-hydroxy-phenyl)-propylamino]-N,N-dimethyl-2-phenyl-acetamide | 9.8 mg, 26% | COC=1C=C(C=CC1OC)CCC(C1=C(C=CC(=C1)F)O)NC(C(=O)N(C)C)C1=CC=CC=C1 | C27H31FN2O4
